US04228170
To a solution of 2-trifluoroacetyl-1,2,3,4-tetrahydroisoquinoline 45.84 g. (0.2 mole) in 300 ml. of chloroform was added slowly 82.4 ml. (1.24 mole) of chlorosulfonic acid. The solution was stirred and the temperature allowed to come down to 25° C. The solution was quenched in ice water and extracted with chloroform. The extract was washed with water and dried over magnesium sulfate and concentrated. The residue was treated with ether and allowed to stand overnight. The resultant solid was filtered off, added to chloroform, cooled, treated with ether and allowed to stand in the cold for several hours. The resultant solid was again taken up in chloroform and treated with ether to give 2-trifluoroacetyl-7-chlorosulfonyl-1,2,3,4-tetrahydroisoquinoline, m.p. 108°-109° C.

reactant | 2-trifluoroacetyl-1,2,3,4-tetrahydroisoquinoline | 45.84 g | FC(C(=O)N1CC2=CC=CC=C2CC1)(F)F | C11H10F3NO
reactant | chlorosulfonic acid | 1.24 mole | ClS(=O)(=O)O | ClHO3S
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 2-trifluoroacetyl-7-chlorosulfonyl-1,2,3,4-tetrahydroisoquinoline | FC(C(=O)N1CC2=CC(=CC=C2CC1)S(=O)(=O)Cl)(F)F | C11H9ClF3NO3S
